US07429609B2
3-(Naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine
280 mg of 5-chloro-3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridine was dissolved in 8 mL of toluene, added with 73 mg sodium t-butoxide, 180 μl of benzophenone imine, 100 mg of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and 56 mg of tris(dibenzylidene acetone)bispalladium, and stirred at 100° C. for 1.5 hours. The reaction solution was allowed to cool to room temperature, the solvent evaporated, and the residue was added with 5 mL of tetrahydrofuran and 0.3 mL of 5N hydrochloric acid and stirred at room temperature for 1 hour. The resultant reaction solution was added with aqueous sodium hydrogen carbonate, extracted with ethyl acetate, and the organic layer was washed with water and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3), to afford 220 mg of the title compound as a colorless powder.

reactant | 5-chloro-3-(naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridine | 280 mg | ClC1=CC=C2C(=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC1=CC=CC=C1C=C2 | C35H24ClN3
reactant | sodium t-butoxide | 73 mg | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 180 μl | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 100 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Naphthalen-2-yl)-1-trityl-1H-pyrazolo[4,3-b]pyridin-5-ylamine | 220 mg | C1=C(C=CC2=CC=CC=C12)C1=NN(C=2C1=NC(=CC2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H26N4
